US05883106
E. 2,5-Difluoro-3-methoxyphenylacetonitrile
To a stirred solution of 2,5-difluoro-3-methoxybenzyl alcohol (8.26 g, 47.4 mmol) in dichloromethane (100 ml) was added p-toluenesulfonyl chloride (9.95 g, 52.2 mmol) and triethylamine (7.30 ml, 52.2 mmol) at room temperature. After 3.5 hr, the mixture was poured into water (200 ml) and extracted with ether (200 ml). The extract was washed with brine (200 ml), dried (magnesium sulfate) and evaporated. To the residue was added DMSO (200 ml) and sodium cyanide (3.48 g, 71 mmol). The resulting mixture was stirred for 2 hr and then poured into water (200 ml) and extracted with ether (300 ml). The extract was washed with water (100 ml), brine (100 ml) and dried over magnesium sulfate. Removal of solvent gave 5.91 g (63%) of the titled compound as a red oil.

reactant | 2,5-difluoro-3-methoxybenzyl alcohol | 47.4 mmol, 8.26 g | FC1=C(CO)C=C(C=C1OC)F | C8H8F2O2
reactant | p-toluenesulfonyl chloride | 52.2 mmol, 9.95 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 52.2 mmol, 7.30 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanide | 71 mmol, 3.48 g | [C-]#N.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | 2,5-Difluoro-3-methoxyphenylacetonitrile | 5.91 g, 63% | FC1=C(C=C(C=C1OC)F)CC#N | C9H7F2NO
